US08278331B2
5-(2-Chloropyridin-4-yloxy)pyridin-2-amine (0.47 g, 2.121 mmol) was dissolved in DMF (11 ml). Water (3.67 ml) was added to the mixture, followed by 1-methyl-4(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole (0.662 g, 3.18 mmol), and cesium carbonate (2.63 g, 8.06 mmol). Argon was bubbled through the mixture for several minutes, and then palladium tetrakistriphenylphosphine (0.245 g, 0.212 mmol) was added. The flask was fitted with a condenser and argon was flushed through the system. The reaction mixture was then placed in a 90° C. oil bath under a balloon of argon and heated for 23 hours. The solution was then cooled to RT and diluted with THF (75 mL) and washed with brine (2×50 mL). The combined aqueous layers were then back extracted with THF (40 mL). The combined organic layers were dried (MgSO4), concentrated under reduced pressure and purified via silica gel chromatography (THF-ethyl acetate) to yield 5-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)pyridin-2-amine as an off-white solid (0.357 g, 63% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.31 (d, 1H), 8.22 (s, 1H), 7.92 (s, 1H), 7.80 (d, 1H), 7.27 (dd, 1H), 7.14 (d, 1H), 6.85 (s, 1H), 6.57 (dd, 1H), 6.01 (s, 2H), 3.84 (s, 3H); MS (ESI) m/z: 268.1 (M+H+).

reactant | 5-(2-Chloropyridin-4-yloxy)pyridin-2-amine | 2.121 mmol, 0.47 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1)N | C10H8ClN3O
reactant | Water | 3.67 ml | O | H2O
reactant | 1-methyl-4(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-pyrazole | 3.18 mmol, 0.662 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | cesium carbonate | 8.06 mmol, 2.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | 5-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)pyridin-2-amine | 0.357 g, 63% yield | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H13N5O
